US07456164B2
Lithium aluminium hydride (9.93 ml of a 1M solution in tetrahydrofuran, 9.93 mmol) was added to a solution of 4-(4-{3-[ethyl(methyl)amino]propoxy}phenyl)tetrahydro-2H-pyran-4-carbonitrile (2.0 g, 6.6 mmol) in tetrahydrofuran (10 ml) at 0° C. under N2. The reaction mixture was warmed to room temperature over 18 h and then quenched by the sequential addition of water (0.4 ml), 2M NaOH solution (0.4 ml) and water (0.4 ml). The mixture was filtered through arbocel and concentrated in vacuo to yield 3-{4-[4-(aminomethyl)tetrahydro-2H-pyran-4-yl]phenoxy}-N-ethyl-N-methylpropan-1-amine as a pale yellow oil (1.93 g, 6.3 mmol, 95%). 1H NMR (400 MHz CDCl3) δ 1.02-1.08 (t, 3H), 1.73-1.83 (m, 2H), 1.90-2.00 (m, 2H), 2.06-2.16 (m, 2H), 2.23 (s, 3H), 2.40-2.48 (q, 2H), 2.50-2.58 (t, 2H), 2.75 (s, 2H), 3.48-3.58 (m, 2H), 3.70-3.80 (m, 2H), 3.98-4.04 (t, 2H), 6.89 (d, 2H), 7.19 (d, 2H). LRMS APCI+ m/z 307 [MH]+.

reactant | Lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(4-{3-[ethyl(methyl)amino]propoxy}phenyl)tetrahydro-2H-pyran-4-carbonitrile | 6.6 mmol, 2.0 g | C(C)N(CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N)C | C18H26N2O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-{4-[4-(aminomethyl)tetrahydro-2H-pyran-4-yl]phenoxy}-N-ethyl-N-methylpropan-1-amine | 6.3 mmol, 1.93 g, 95% | NCC1(CCOCC1)C1=CC=C(OCCCN(C)CC)C=C1 | C18H30N2O2
